US06096758
7. 8-{2-[(3-Hydroxybenzyloxy)carbonylamino]-6-methylbenzylamino}-2,3-dimethylimidazo[1,2-a]pyridine
A suspension of 8-amino-2,3-dimethylimidazo[1,2-a]pyridine (0.63 g), 3-hydroxybenzyl (2-chloromethyl-3-methylphenyl)carbamate (1.2 g), sodium carbonate (1 g) and sodium iodide (0.14 g) in acetone (20 ml) is stirred at RT for 16 h. The precipitate is filtered off, washed with acetone and concentrated. The residue is taken up in sodium hydrogencarbonate solution (40 ml) and extracted with dichloromethane (3×40 ml). The combined organic extracts are washed with water, dried over sodium sulfate and concentrated. The residue is purified by flash chromatography on silica gel (eluent: dichloromethane/methanol 13:1). After concentration of the main fraction and crystallization from acetone, 0.4 g (22%) of the title compound of m.p. 190-193° C. is obtained.

reactant | 8-amino-2,3-dimethylimidazo[1,2-a]pyridine | 0.63 g | NC=1C=2N(C=CC1)C(=C(N2)C)C | C9H11N3
reactant | 3-hydroxybenzyl (2-chloromethyl-3-methylphenyl)carbamate | 1.2 g | ClCC1=C(C=CC=C1C)NC(OCC1=CC(=CC=C1)O)=O | C16H16ClNO3
reactant | sodium carbonate | 1 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.14 g | [I-].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 8-{2-[(3-Hydroxybenzyloxy)carbonylamino]-6-methylbenzylamino}-2,3-dimethylimidazo[1,2-a]pyridine | OC=1C=C(COC(=O)NC2=C(CNC=3C=4N(C=CC3)C(=C(N4)C)C)C(=CC=C2)C)C=CC1 | C25H26N4O3
